*$
* PART NUMBER:NJM2720
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (c) Bee Technologies Inc. 2006
.Subckt NJM2720 OUT IN- IN+ V+ V-
X_U1     IN+ IN- V+ V- OUT NJM2720_ME
.ends  NJM2720
.subckt NJM2720_ME 1 2 3 4 5
  c1   11 12 8.6603E-12
  c2    6  7 37.000E-15
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 1.7684E3 -1E3 1E3 1E3 -1E3
  ga    6  0 11 12 22.619E-3
  gcm   0  6 10 99 2.2619E-6
  iee   3 10 dc 13.515E-3
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 44.210
  rc2   4 12 44.210
  re1  13 10 40.333
  re2  14 10 40.333
  ree  10 99 14.798E3
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 137.74
  vb    9  0 dc 0
  vc    3 53 dc 1.8979
  ve   54  4 dc 1.8979
  vlim  7  8 dc 0
  vlp  91  0 dc 20
  vln   0 92 dc 20
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=894.22)
.model qx2 PNP(Is=844.8200E-18 Bf=905.86)
.ends
*$